US07723336B2
To a 25 ml round bottom flask was added 8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-6-carbonitrile (0.62 g, 1.7 mmol) from (1a) and toluene (3.4 ml, 0.5 M) and the solution cooled to −5° C. To this was added dropwise, a 1.0 M solution of diisobutylaluminum hydride [DIBAL] in toluene (3.5 ml, 3.5 mmol) over a period of 10 minutes. The reaction was stirred at −5° C. for 1 hour and then warmed to room temperature and allowed to stir for an additional 2 hours. Dilute 1N HCl and ethyl acetate were added and the layers separated. The acidic aqueous layer was extracted 1 additional time with ethyl acetate and then basified with a 50% NaOH solution. The aqueous layer was extracted 2× with ethyl acetate and the combined organics were washed with brine (20 ml), dried over Na2SO4, filtered and concentrated in vacuo to provide crude 6-(aminomethyl)-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine (0.44 g) which was used as such in the subsequent step. m/z=(360, M+1).

reactant | 8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-6-carbonitrile | 1.7 mmol, 0.62 g | COC1=CC=C(CN(C=2C=3N(N=C(C2)C#N)C=CN3)C3=CC=CC=C3)C=C1 | C21H17N5O
reactant | toluene | 0.5 M, 3.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 3.5 mmol, 3.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(aminomethyl)-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 0.44 g | NCC=1C=C(C=2N(N1)C=CN2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C21H21N5O
